Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
numbness over left side
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ yo F with significant PMH of heavy smoking
(package age -___), daily ___ use, SVT on metoprolol
presented with acute onset left side sensory changes. She
mentioned that she woke up in the morning of ___ at 8 am
and felt that the left side of her face, left arm and left leg
were ''numb'' compared to the left side of the body. She
continued to have those sensation changes constantly and
currently complains for the same feeling. She stated that it has
stayed the same in terms of severity. 

She additionally reported new onset headaches. She started to
display occipital, non radiated, ___ in terms of severity,
sharp/squeezing headaches with associated occasional phonophobia
for the past 3 weeks. They usually occur in the afternoon every
other day and last for ___ hours. She denies that position
changes make the headaches worse or better. No alleviating or
other aggravating factors. She denied hx of
hyperlipidemia,hypertension or DM. She denies waking up from
sleep with a headache. She emphasized that she generally doesn't
suffer from headaches. She denied any head trauma, neck
stiffness, fever ear pain, vomiting, nausea, abdominal pain,
rash. She denied any loss of weight or appetite changes. She
visited an outside hospital where an MRI of the brain was done.
MRI showed ''some abnormalities'' and she was transferred to our
ED. Radiologist was officially consulted to review the outside
MRI scan images. 
 
Past Medical History:
SVT treated with Metoprolol 25 mg daily and
depression treated with fluoxetine 60 mg daily. She additionally
has osteoporosis. She heavily smokes-___ package age and smokes
___ daily, last time on ___. 
 
Family History:
Non pertinent.
 
Physical Exam:
GEN: This is a well-developed, well nourished- who appears -
stated age. No pedal edema, peripheral pulses are normal.

HEENT:  Unremarkable.
NECK: Carotids are without bruit. Neck movements are full range,
non-tender.
HEART: Regular rate and rhythm without murmur.

Neurological exam

MENTAL STATUS: Patient is alert and oriented to time, place and
person. Registration is ___ and recall is ___. The patient has
good attention and concentration. Speech and language are normal
with appropriate fund of knowledge.
CRANIAL NERVES: Pupils are 3 mm, equal and reactive. Optic discs
are normal. Visual fields are full to confrontation. Extraocular
movements are intact. Decreased pinprick and soft sensation over
the left side of the face over V1,V2,V3. There is no
facial weakness. Hearing is present to finger rub bilaterally.
Soft palate elevates symmetrically. Sternocleidomastoids are
normal. Tongue protrudes in the midline.
MOTOR: Strength is ___ in all four extremities. There is no
atrophy, no fasciculations, myokymia, or myotonia. Tone is
normal. DTRs are 2+ bilaterally symmetric, plantars are flexor.
SENSATION: Decreased soft touch, pinprick sensation over the 
left
arm, forearm, hand and thigh, leg and foot.
COORDINATION: No finger to nose or heel to knee incoordination.
GAIT: Normal. Able to walk on heel, toe, tandem normally. 
Romberg
is negative.
Neck is supple, Kernig's negative.

DISCHARGE PHYSICAL EXAM;
HEENT:  Unremarkable.
NECK: Carotids are without bruit. Neck movements are full range,
mild posterior neck tenderness
HEART: Regular rate and rhythm without murmur.

Neurological exam: awake, alert, able to coherently carry out
conversation, follows truncal/appendicular commands, no
dysarthria, fluent language, EOMI, PERRL, face symmetric without
droop, face activates symmetrically, pinprick sensation equal
throughout, strength full throughout, no pronator drift, FTN
intact bilaterally

 
Pertinent Results:
CTA head and neck (wetread) ___:
___ year old woman with left hemiparesthesia // dissection, 
stroke

  
CT HEAD WITHOUT CONTRAST: 
No acute intracranial abnormality. 
  
CTA HEAD: 
No large vessel occlusion or stenosis of the major intracranial
arteries.   Redemonstrated fetal type circulation of the right 
posterior
cerebral artery  with a 2 mm outpouching of the right posterior 
communicating artery compatible  with a small aneurysm or 
infundibulum. The dural venous sinuses are patent. 
  
CTA NECK: 
The bilateral carotid and vertebral arteries are patent without
occlusion or stenosis. 

CXR:

IMPRESSION: 
 
No comparison.  Moderate scoliosis with subsequent asymmetry of
the ribcage. The shape of the hemidiaphragms is normal.  There 
is no evidence of overinflation.  Minimal thickening of the 
lateral right-sided
pleura, with minimal subpleural scarring, but without evidence 
of pulmonary
edema or pneumonia.  No evidence of suspicious nodules or 
masses.  No
pleural effusions.

MRI BRAIN w/ w/o contrast ___
IMPRESSION: 
  
  
1. MRI Brain: No acute intracranial pathology. Scattered 
T2/FLAIR 
periventricular white matter, subcortical, and pontine 
hyperintensities are nonspecific but compatible with chronic 
sequela of small-vessel ischemic disease. 
2. MRA Brain: There is normal variant fetal type anatomy of the 
right 
posterior cerebral artery with a 2-3 mm outpouching at the 
origin of the right PComm which may reflect small aneurysm 
versus infundibulum.  Otherwise, the intracranial vertebraland 
internal carotid arteries and their major branches 
appear normal without evidence of stenosis,occlusion,or aneurysm 
formation. 

___ 06:30PM BLOOD WBC-9.1 RBC-3.90 Hgb-12.5 Hct-38.1 MCV-98 
MCH-32.1* MCHC-32.8 RDW-13.4 RDWSD-48.3* Plt ___
___ 06:30PM BLOOD ___ PTT-31.8 ___
___ 06:30PM BLOOD Glucose-113* UreaN-14 Creat-0.6 Na-140 
K-4.3 Cl-105 HCO3-28 AnGap-7*
___ 06:30PM BLOOD ALT-16 AST-16
___ 12:26AM BLOOD cTropnT-<0.01
___ 06:30PM BLOOD Calcium-9.8 Phos-3.9 Mg-2.2 Cholest-184
___ 12:26AM BLOOD %HbA1c-5.6 eAG-114
___ 06:30PM BLOOD Triglyc-199* HDL-64 CHOL/HD-2.9 
LDLcalc-80
___ 12:26AM BLOOD TSH-5.6*
___ 12:26AM BLOOD Free T4-1.0
___ 03:30PM BLOOD CRP-2.7
___ 12:26AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 12:26AM BLOOD GreenHd-HOLD
___ 03:30PM BLOOD SED RATE-PND
___ 04:45PM URINE Hours-RANDOM
___ 04:45PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG
 
Brief Hospital Course:
Mrs. ___ is a ___ F w/ PMH SVT on metoprolol. She presented to 
the emergency room after waking up with L hemibody numbness. her 
symptoms resolved while in the hospital. The etiology was felt 
to be due to MRI negative stroke. Likely a small thalamic 
infarct.

#MRI negative stroke
She had a MRI at OSH which showed some FLAIR hyperintensities in 
the midbrain, and was subsequently transferred here for further 
evaluation. MRI brain w/ w/o contrast was repeated here, there 
was no enhancement, the same abnormal area in the midbrain was 
visualized again. There were no clear signs of acute infarct on 
the imaging. It was felt that the midbrain signal abnormality 
was chronic and related to small vessel disease, and not related 
to her acute presentation. Her symptoms had greatly improved on 
hospital 1 and were resolved by hospital day 2. Overall, it was 
felt that she likely had a stroke that was MRI negative, such a 
small thalamic stroke, given the hemisensory loss. That she woke 
up with her symptoms is a common presentation in stroke as well 
as well as the rate at which her symptoms improved. She did 
mention some mild headaches but these were felt to be unlikely 
to be related to her symptoms. She had vessel imaging, without 
any significant atherosclerosis, and no dissection. Given her 
risk factor of smoking, it was felt that she most likely had a 
stroke due to small vessel disease. A1c was 5.6%. LDL was 98. 
She was started on aspirin 81 mg daily and atorvastatin 10 mg 
daily. Smoking cessation counselling was provided. She did not 
elect to start any medications for smoking cessation at this 
time but knows they are available. She had no deficits 
remaining, so was discharged home. A TTE was not able to be done 
inpatient and should be done to complete workup as an 
outpatient. Etiology was felt to be small vessel in origin, 
there was not suspicion for a cardioembolus, but TTE may show 
signs of other CV disease.

#2 mm outpouching of R PCOM
CTA h/n showed a 2mm outpouching of the R PCOM, either aneurysm 
vs infundibulum. This was felt to be an incidental finding. 
Vessel imaging should be repeated in 6 months to ___ year to 
ensure stability. As it was only 2 mm in size, it should only be 
monitored for the time being.

TRANSITIONAL ISSUES:
#MRI negative stroke
-patient should have TTE done to complete stroke workup. Does 
not necessarily need to be a bubble study.
-started on atorvastatin 10 mg daily for secondary prevention, 
goal LDL <70 in stroke, consider monitoring LFTs periodically
-started on aspirin 81 mg daily for secondary prevention
-smoking cessation
-follow up with neurology in ~3 months

#2 mm R PCOM outpouching
-repeat vessel imaging with CTA head or MRA head in ___ months.

=
=
=
=
=
=
=
=
=
=
=
=
=
=
=
=
================================================================
AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No. If no, reason why:
2. DVT Prophylaxis administered? (x) Yes - () No. If no, why not 
(I.e. bleeding risk, hemorrhage, etc.)
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No. If not, why not? (I.e. bleeding risk, 
hemorrhage, etc.)
4. LDL documented? (x) Yes (LDL = 98) - () No
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) () Yes - (x) No [if LDL 
>70, reason not given:
[ ] Statin medication allergy
[x ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist
[ ] LDL-c less than 70 mg/dL
6. Smoking cessation counseling given? (x) Yes - () No [reason 
() non-smoker - () unable to participate]
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given in written 
form? (x) Yes - () No
8. Assessment for rehabilitation or rehab services considered? 
() Yes - (x) No. If no, why not? patient at baseline functional 
status
9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given:
[ ] Statin medication allergy
[ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist
[ ] LDL-c less than 70 mg/dL
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - (x) No - If no, why not (I.e. 
bleeding risk, etc.) (x) N/A

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. FLUoxetine 60 mg PO DAILY 
2. Metoprolol Succinate XL 25 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*3 
2.  Atorvastatin 10 mg PO QPM 
RX *atorvastatin 10 mg 1 tablet(s) by mouth nightly Disp #*30 
Tablet Refills:*3 
3.  FLUoxetine 60 mg PO DAILY  
4.  Metoprolol Succinate XL 25 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
MRI negative stroke

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

___ came to the hospital because ___ woke up with numbness over 
the whole left side of your body. This feeling resolved while 
___ were in the hospital. ___ had tests including MRI, CT scans 
and blood work. Overall we felt that given the way your symptoms 
started and progressed that ___ most likely had a stroke. An 
ACUTE ISCHEMIC STROKE is a condition where a blood vessel 
providing oxygen and nutrients to the brain is blocked by a 
clot. The brain is the part of your body that controls and 
directs all the other parts of your body, so damage to the brain 
from being deprived of its blood supply can result in a variety 
of symptoms.

We did not see evidence of a stroke on your MRI. Sometimes if a 
stroke is small, it will not be seen on a MRI if it occurs 
between the slices. Due to speed at which your symptoms improved 
and that ___ only had sensation changes, a small stroke that was 
not able to be seen on MRI was thought to be compatible with 
your symptoms. We recommend starting aspirin and atorvastatin to 
decrease your risk of stroke. ___ should also stop smoking, as 
smoking can increase the risk of stroke, heart attack, and 
cancer. There are smoking cessation medications available if ___ 
need them.

Atorvastatin can sometimes cause muscle aches, please speak to 
your doctor if ___ begin to notice this symptom.

We did notice a small abnormality in one of the blood vessels in 
the brain, there was a small outpouching (~2 mm), which may 
represent an aneurysm. There should be imaging done again in 
___ months to reassess this area. As it is small, it only 
requires monitoring.

Stroke can have many different causes, so we assessed ___ for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:
smoking

We are changing your medications as follows:
STARTING:
aspirin 81 mg daily
atorvastatin 10 mg daily

Please take your other medications as prescribed.

Please follow up with Neurology and your primary care physician.

___ will need to arrange an ultrasound of your heart 
(transthoracic echocardiogram) with your primary care physician.

If ___ experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
___
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___